US05021413
4-(5,6-dichloro-3-oxoindan-1-carbonyl)-3-(piperidinomethyl)thiomorpholine hydrochloride
The procedure described in Example 24 was repeated, but using 0.9 g of 3-(piperidinomethyl)thiomorpholine, 1.0 g of triethylamine and 1.5 g of 5,6-dichloro-3-oxoindan-1-carbonyl chloride to afford 0.45 g of the title compound, melting at 146°-155° C.

reactant | 3-(piperidinomethyl)thiomorpholine | 0.9 g | N1(CCCCC1)CC1NCCSC1 | C10H20N2S
reactant | 5,6-dichloro-3-oxoindan-1-carbonyl chloride | 1.5 g | ClC=1C=C2C(CC(C2=CC1Cl)C(=O)Cl)=O | C10H5Cl3O2
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 4-(5,6-dichloro-3-oxoindan-1-carbonyl)-3-(piperidinomethyl)thiomorpholine hydrochloride | 0.45 g | Cl.ClC=1C=C2C(CC(C2=CC1Cl)C(=O)N1C(CSCC1)CN1CCCCC1)=O | InChI=1S/C20H24Cl2N2O2S.ClH/c21-17-8-14-15(9-18(17)22)19(25)10-16(14)20(26)24-6-7-27-12-13(24)11-23-4-2-1-3-5-23;/h8-9,13,16H,1-7,10-12H2;1H
